US08012956B2
To a solution of 4-bromo-3-methylbenzonitrile (0.48 g, 2.43 mmol) in 1 ml of toluene at −78° C. was added 1 ml of 2.6M n-BuLi in toluene followed by quenching with dry ice (0.5 g, 12.5 mmol). The reaction mixture was warmed to room temperature, then taken into water and extracted with ethyl acetate (2×15 ml). The water layer was acidified to pH 1-2 by addition of concentrated aqueous hydrochloric acid and extracted with ethyl acetate (3×15 ml). The organic layer was dried over anhydrous sodium sulfate, then filtered and concentrated to give 4-cyano-2-methylbenzoic acid (0.08 g, 20% yield). 1H-NMR (400 MHz, DMSO-d6): 13.10 (br s, 1H), 7.92 (d, 1H), 7.84 (m, 1H), 7.76 (d, 1H), 2.53 (s, 3H).

reactant | 4-bromo-3-methylbenzonitrile | 2.43 mmol, 0.48 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | n-BuLi | 2.6M, 1 ml | [Li]CCCC
reactant | dry ice | 12.5 mmol, 0.5 g | C(=O)=O | CO2
reactant | water | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-2-methylbenzoic acid | 0.08 g, 20% yield | C(#N)C1=CC(=C(C(=O)O)C=C1)C | C9H7NO2
